US06858651B2
To a solution of 16.1 g (124.7 mmol) trans-4-methylamino-cyclohexanol in 40 ml CH2Cl2, 18.3 ml (130.9 mmol, 1.05 eq) 4-chlorophenylchloroformate and 22.4 ml (130.9 mmol, 1.05 eq) Huenig's base were added at 0° C. The solution was stirred at RT over night, diluted, and washed with 1M HCl, sat. aqueous NaHCO3 solution. The organic phase was dried over MgSO4. Column chromatography on silica gel with EtOAc:hexane 1:1 yielded 32.2 g (91%) trans-(4-Hydroxy-cyclohexyl)-methyl-carbamic acid 4-chloro-phenyl ester as white solid, MS: 283 (M, 1Cl).

reactant | trans-4-methylamino-cyclohexanol | 124.7 mmol, 16.1 g | CN[C@@H]1CC[C@H](CC1)O | C7H15NO
reactant | 4-chlorophenylchloroformate | 130.9 mmol, 18.3 ml, 1.05 eq | C1=CC(=CC=C1OC(=O)Cl)Cl | C7H4Cl2O2
reactant | Huenig's base | 130.9 mmol, 22.4 ml, 1.05 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | trans-(4-Hydroxy-cyclohexyl)-methyl-carbamic acid 4-chloro-phenyl ester | 32.2 g, 91% | ClC1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)O)=O | C14H18ClNO3
